US06274587B1
9-(1-naphthyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one
A solution of 1,3-cyclohexanedione(0.11 g, 1 mmol), 1-naphthaldehyde(0.16 g, 1 mmol), and 3-aminopyrazole(0.11 g, 1.27 mmol) in ethanol (10 mL) was heated at 80 ° C. in a sealed 20 mL vial for 3 days. After the reaction mixture was allowed to cool to ambient temperature, the solvent was evaporated at reduced pressure and the resulting residue was chromatographed on silica gel, eluting with 5% ethanol/methylene chloride to provide 0.14 g (44%) of the title compound.

reactant | 1,3-cyclohexanedione | 1 mmol, 0.11 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 1-naphthaldehyde | 1 mmol, 0.16 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | 3-aminopyrazole | 1.27 mmol, 0.11 g | NC1=NNC=C1 | C3H5N3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 9-(1-naphthyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one | 0.14 g, 44% | C1(=CC=CC2=CC=CC=C12)C1N2C(NC=3CCCC(C13)=O)=CC=N2 | C20H17N3O
